US07402698B2
2-(3-bromo-4-methoxyphenyl)-3-ethyl-1-piperazin-1-ylpentan-3-ol dihydrochloride
In an analogous manner to Example 1, step 2 2-(3-bromo-4-methoxyphenyl)-3-ethyl-1-(4-methylpiperazin-1-yl)pentan-3-ol dihydrochloride was prepared from tert-butyl 4-[2-(3-bromo-4-methoxyphenyl)-3-ethyl-3-hydroxypentanoyl]piperazine-1-carboxylate. MS m/z 385/387 ([M+H]+); HRMS: calcd for C18H29BrN2O2.2.00 HCl, 456.0946; found (ESI), 385.1494.

reactant | 2-(3-bromo-4-methoxyphenyl)-3-ethyl-1-(4-methylpiperazin-1-yl)pentan-3-ol dihydrochloride | Cl.Cl.BrC=1C=C(C=CC1OC)C(CN1CCN(CC1)C)C(CC)(O)CC
reactant | tert-butyl 4-[2-(3-bromo-4-methoxyphenyl)-3-ethyl-3-hydroxypentanoyl]piperazine-1-carboxylate | BrC=1C=C(C=CC1OC)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C(CC)(O)CC | C23H35BrN2O5
reactant | HCl | Cl | ClH
product | 2-(3-bromo-4-methoxyphenyl)-3-ethyl-1-piperazin-1-ylpentan-3-ol dihydrochloride | Cl.Cl.BrC=1C=C(C=CC1OC)C(CN1CCNCC1)C(CC)(O)CC | InChI=1S/C18H29BrN2O2.2ClH/c1-4-18(22,5-2)15(13-21-10-8-20-9-11-21)14-6-7-17(23-3)16(19)12-14;;/h6-7,12,15,20,22H,4-5,8-11,13H2,1-3H3;2*1H
